### PR TITLE
[Merged by Bors] - feat(RingTheory/Polynomial/Basic): add thms on degree of span and non-finiteness of polynomial ring as module

### PR DESCRIPTION
**Pull request by LukasMias**
This shows with minimal requirements on `R`, that the `R`-module `R[X]` is not finite, or if `R` is a field, that equivalently `R[X]` is infinite-dimensional. On the way, some theorems are proven on how the `R`-span of a set of polynomials in `R[X]` interacts with the degree of the elements, and that the span of finitely many polynomials is always contained in some `Polynomial.degreeLE n` and some `Polynomial.degreeLT n`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/Basic.lean [hunk 1]
```diff
@@ -641,6 +698,23 @@ theorem _root_.Polynomial.coeff_prod_mem_ideal_pow_tsub {ι : Type*} (s : Finset
 
 end CommSemiring
 
+section Semiring
+
+/-- If `R` is a nontrivial ring, the polynomials `R[X]` are not finite as an `R`-module. When `R` is
+a field, this is equivalent to `R[X]` being an infinite-dimensional vector space over `R`.  -/
+theorem polynomial_not_module_finite {R : Type u} [Semiring R] [Nontrivial R]:
```
Comment (TwoFX) [inline Mathlib/RingTheory/Polynomial/Basic.lean:705]: I wonder if it's possible to deduce this from [Polynomial.basisMonomials](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/MvPolynomial/Basic.html#Polynomial.basisMonomials), but that currently only works for `CommSemiringR`, and I don't know how difficult it would be to generalize. So no need to do anything in this PR.

Comment (LukasMias) [reply Mathlib/RingTheory/Polynomial/Basic.lean:705]: I've also noticed that if you allow for stronger assumptions like `R` being a field, you can pretty swiftly get that `R[X]` has countable dimension by using the work from the MvPolynomial module, e.g. [rank_mvPolynomial](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/MvPolynomial.html#MvPolynomial.rank_mvPolynomial). But without at least `CommSemiring R`, I agree not much more can be done.

File: Mathlib/RingTheory/Polynomial/Basic.lean [hunk 2]
```diff
@@ -641,6 +693,23 @@ theorem _root_.Polynomial.coeff_prod_mem_ideal_pow_tsub {ι : Type*} (s : Finset
 
 end CommSemiring
 
+section Semiring
+
+/-- If `R` is a nontrivial ring, the polynomials `R[X]` are not finite as an `R`-module. When `R` is
+a field, this is equivalent to `R[X]` being an infinite-dimensional vector space over `R`.  -/
+theorem polynomial_not_module_finite {R : Type u} [Semiring R] [Nontrivial R] :
```
Comment (TwoFX) [inline Mathlib/RingTheory/Polynomial/Basic.lean:700]: With the current placement this lemma is in the namespace `Ideal`. Is that what you intended? I think I would have moved it up to the other lemmas and called it `not_finite`, so that the full name is `Polynomial.not_finite`. What do you think?

File: Mathlib/RingTheory/Polynomial/Basic.lean [hunk 3]
```diff
@@ -180,6 +180,58 @@ theorem eval_eq_sum_degreeLTEquiv {n : ℕ} {p : R[X]} (hp : p ∈ degreeLT R n)
...
+    exact ⟨natDegree p', fun p hp => mem_degreeLE.mpr ((hp'max _ hp).trans degree_le_natDegree)⟩
+  · rw [Set.not_nonempty_iff_eq_empty] at s_emp
+    rw [s_emp, Submodule.span_empty]
+    exact ⟨0, bot_le⟩
+
+/-- The span of every finite set of polynomials is contained in a `degreeLT n` for some `n`. -/
+theorem span_of_finite_le_degreeLT {s : Set R[X]} (s_fin : s.Finite) :
+    ∃ n : ℕ, Submodule.span R s ≤ degreeLT R n := by
+  rcases span_of_finite_le_degreeLE s_fin with ⟨n,_⟩
+  exact ⟨n+1, by rwa [degreeLT_eq_degreeLE]⟩
```
Comment (TwoFX) [inline Mathlib/RingTheory/Polynomial/Basic.lean:233]:
```suggestion
  rcases span_of_finite_le_degreeLE s_fin with ⟨n, _⟩
  exact ⟨n + 1, by rwa [degreeLT_eq_degreeLE]⟩
```

File: Mathlib/RingTheory/Polynomial/Basic.lean (hunk 2 above)
Comment (LukasMias) [reply Mathlib/RingTheory/Polynomial/Basic.lean:700]: Yeah, admittedly I struggled a bit placing this lemma in a meaningful place. But I agree with your suggestion, I will move this around.

File: Mathlib/RingTheory/Polynomial/Basic.lean [hunk 4]
```diff
@@ -180,6 +180,71 @@ theorem eval_eq_sum_degreeLTEquiv {n : ℕ} {p : R[X]} (hp : p ∈ degreeLT R n)
   exact (sum_fin _ (by simp_rw [zero_mul, forall_const]) (mem_degreeLT.mp hp)).symm
 #align polynomial.eval_eq_sum_degree_lt_equiv Polynomial.eval_eq_sum_degreeLTEquiv
 
+theorem degreeLT_eq_degreeLE {n : ℕ} : degreeLT R (n + 1) = degreeLE R n := by
```
Comment (TwoFX) [inline Mathlib/RingTheory/Polynomial/Basic.lean:183]: The current name is probably fine, but `degreeLT_succ` or `degreeLT_succ_eq_degreeLE` might be better.

File: Mathlib/RingTheory/Polynomial/Basic.lean [hunk 5]
```diff
@@ -180,6 +180,71 @@ theorem eval_eq_sum_degreeLTEquiv {n : ℕ} {p : R[X]} (hp : p ∈ degreeLT R n)
...
+  rcases Set.Finite.exists_maximal_wrt degree s s_fin hs with ⟨a, has, hmax⟩
+  refine ⟨a, has, fun p hp => ?_⟩
+  rcases degree_span hs hp with ⟨p', hp'⟩
+  have p'max := hmax p' hp'.left
+  by_cases h : degree a ≤ degree p'
+  · rw [← p'max h] at hp'; exact hp'.right
+  · exact le_trans hp'.right (not_le.mp h).le
+
+/-- The span of every finite set of polynomials is contained in a `degreeLE n` for some `n`. -/
+theorem span_of_finite_le_degreeLE {s : Set R[X]} (s_fin : s.Finite) :
```
Comment (TwoFX) [inline Mathlib/RingTheory/Polynomial/Basic.lean:220]: By the [naming convention](https://leanprover-community.github.io/contribute/naming.html), this should be called `span_le_degreeLE` or `span_le_degreeLE_of_finite`. Similar for the lemma below.

File: Mathlib/RingTheory/Polynomial/Basic.lean [hunk 6]
```diff
@@ -180,6 +180,71 @@ theorem eval_eq_sum_degreeLTEquiv {n : ℕ} {p : R[X]} (hp : p ∈ degreeLT R n)
...
+theorem degreeLT_eq_degreeLE {n : ℕ} : degreeLT R (n + 1) = degreeLE R n := by
+  ext x
+  by_cases x_zero : x = 0
+  · simp_rw [x_zero, Submodule.zero_mem]
+  · rw [mem_degreeLT, mem_degreeLE, ← natDegree_lt_iff_degree_lt (by rwa [ne_eq]),
+      ← natDegree_le_iff_degree_le, Nat.lt_succ]
+
+/-- For every polynomial `p` in the span of a set `s : K[X]`, there exists a polynomial of `p' ∈ s`
+  with higher degree. See also `degree_span'` -/
+theorem degree_span {s : Set R[X]} {p : R[X]} (hs : s.Nonempty) (hp : p ∈ Submodule.span R s) :
```
Comment (TwoFX) [inline Mathlib/RingTheory/Polynomial/Basic.lean:192]: This name is quite low on information. I would prefer something like `degree_le_of_mem_span` or even `exists_degree_le_of_mem_span`. For `degree_span'`, I would append `of_finite` instead of an apostrophe.

File: Mathlib/RingTheory/Polynomial/Basic.lean [hunk 7]
```diff
@@ -180,6 +180,71 @@ theorem eval_eq_sum_degreeLTEquiv {n : ℕ} {p : R[X]} (hp : p ∈ degreeLT R n)
...
 #align polynomial.eval_eq_sum_degree_lt_equiv Polynomial.eval_eq_sum_degreeLTEquiv
 
+theorem degreeLT_eq_degreeLE {n : ℕ} : degreeLT R (n + 1) = degreeLE R n := by
+  ext x
+  by_cases x_zero : x = 0
+  · simp_rw [x_zero, Submodule.zero_mem]
+  · rw [mem_degreeLT, mem_degreeLE, ← natDegree_lt_iff_degree_lt (by rwa [ne_eq]),
+      ← natDegree_le_iff_degree_le, Nat.lt_succ]
+
+/-- For every polynomial `p` in the span of a set `s : K[X]`, there exists a polynomial of `p' ∈ s`
```
Comment (TwoFX) [inline Mathlib/RingTheory/Polynomial/Basic.lean:190]:
```suggestion
/-- For every polynomial `p` in the span of a set `s : Set R[X]`, there exists a polynomial of `p' ∈ s`
```

File: Mathlib/RingTheory/Polynomial/Basic.lean [hunk 8]
```diff
@@ -180,6 +180,71 @@ theorem eval_eq_sum_degreeLTEquiv {n : ℕ} {p : R[X]} (hp : p ∈ degreeLT R n)
...
+    rcases hs with ⟨x,hx⟩
+    exact not_lt_bot (h x hx)
+  · have : p ∈ degreeLT R (natDegree p) := by
+      refine (Submodule.span_le.mpr fun p' p'_mem => ?_) hp
+      rw [SetLike.mem_coe, mem_degreeLT, Nat.cast_withBot]
+      exact lt_of_lt_of_le (h p' p'_mem) degree_le_natDegree
+    rwa [mem_degreeLT, Nat.cast_withBot, degree_eq_natDegree hp_zero,
+      Nat.cast_withBot, lt_self_iff_false] at this
+
+/-- A stronger version of `degree_span` under the assumption that the set `s : R[X]` is finite.
```
Comment (TwoFX) [inline Mathlib/RingTheory/Polynomial/Basic.lean:206]:
```suggestion
/-- A stronger version of `degree_span` under the assumption that the set `s : Set R[X]` is finite.
```

File: Mathlib/RingTheory/Polynomial/Basic.lean (hunk 5 above)
Comment (TwoFX) [reply Mathlib/RingTheory/Polynomial/Basic.lean:221]: You resolved this conversation without replying to my comment or addressing it. Did you forget to push your changes?

Comment (LukasMias) [reply Mathlib/RingTheory/Polynomial/Basic.lean]: Apologies! Must have missed this one, I thought I had changed it. Thank you!

**Review by TwoFX — APPROVED** [review]
Thanks!

bors r+
